### PR TITLE
feat(GraphTheory/ExampleSheet1): question 5

### PR DESCRIPTION
**Pull request by XC0R**
Closes the sorry in `q5` of `ExampleSheet1.lean` — proving that an acyclic graph on `n` vertices has at most `n - 1` edges.

**Proof**: Extend the acyclic graph `G` to a spanning tree `T` of the complete graph via `connected_top.exists_isTree_le_of_le_of_isAcyclic`. Since `G ≤ T`, we have `G.edgeFinset ⊆ T.edgeFinset` (by `edgeFinset_subset_edgeFinset`), giving `|E(G)| ≤ |E(T)| = n - 1` (by `IsTree.card_edgeFinset`).

The empty case was already handled; this closes the nonempty case.

### CODE REVIEW

File: LeanCamCombi/GraphTheory/ExampleSheet1.lean [hunk 1]
```diff
@@ -84,7 +84,12 @@ lemma q5 [Fintype α] (G : SimpleGraph α) [DecidableRel G.Adj] (hG : G.IsAcycli
     G.edgeFinset.card ≤ card α - 1 := by
   cases isEmpty_or_nonempty α
   · simp [Subsingleton.elim G ⊥]
-  sorry
+  · classical
+    obtain ⟨T, hGT, -, hT⟩ := connected_top.exists_isTree_le_of_le_of_isAcyclic le_top hG
+    have := hT.card_edgeFinset -- T.edgeFinset.card + 1 = card α
+    calc G.edgeFinset.card
+        ≤ T.edgeFinset.card := Finset.card_le_card (edgeFinset_subset_edgeFinset.mpr hGT)
+      _ = card α - 1 := by omega
```
Comment (YaelDillies) [inline LeanCamCombi/GraphTheory/ExampleSheet1.lean]: `omega` is deprecated. You should follow the "line of sight rule". No need for a `calc` here, `grw` is enough.
```suggestion
  classical
  obtain ⟨T, hGT, -, hT⟩ := connected_top.exists_isTree_le_of_le_of_isAcyclic le_top hG
  grw [hGT, hT.card_edgeFinset]
  lia
```
and do you really need `classical`? Is it for `T.edgeFinset` to make sense?

**Review by YaelDillies — APPROVED** [review]
Thank you!

File: LeanCamCombi/GraphTheory/ExampleSheet1.lean [hunk 2]
```diff
@@ -84,7 +84,11 @@ lemma q5 [Fintype α] (G : SimpleGraph α) [DecidableRel G.Adj] (hG : G.IsAcycli
     G.edgeFinset.card ≤ card α - 1 := by
   cases isEmpty_or_nonempty α
   · simp [Subsingleton.elim G ⊥]
-  sorry
+  · classical
+    obtain ⟨T, hGT, -, hT⟩ := connected_top.exists_isTree_le_of_le_of_isAcyclic le_top hG
+    have h1 := Finset.card_le_card (edgeFinset_subset_edgeFinset.mpr hGT)
+    have h2 := hT.card_edgeFinset
+    lia
```
Comment (YaelDillies) [inline LeanCamCombi/GraphTheory/ExampleSheet1.lean:91]: Actually, doesn't this work?
```suggestion
    grw [hGT, hT.card_edgeFinset]
```

**Comment by XC0R** [comment]
`grw [hGT, hT.card_edgeFinset]` doesn't build: `DecidableRel G.Adj` vs `DecidableRel T.Adj` mismatch on `edgeFinset`. Open to further suggestion; the current build runs clean.
